US04749379
EXAMPLE 1 Preparation of 4,5-methylenedioxy-1,2-dinitrobenzene according to D. S. WULFMAN and C. F. COOPER, Synthesis, pages 924-925 (1978)
0.103 mol (17.2 g) of 4,5-methylenedioxy-1-nitrobenzene is added in small portions in the course of 15 minutes to a mixture, cooled to -5° C., consisting of 125 ml of nitric acid (d=1.50) and 125 ml of nitric acid (d=1.40), the temperature being maintained at between 0° and 5° C. 1 hour after the addition is complete, the reaction mixture is poured onto 1 kg of ice. The expected product precipitates. After being dried hot in the presence of phosphorus pentoxide, it melts at 99° C. (literature 98°-100° C.). It can optionally be recrystallized from 96° strength ethanol.

reactant | 4,5-methylenedioxy-1-nitrobenzene | 0.103 mol, 17.2 g | C1OC2=CC=C(C=C2O1)[N+](=O)[O-] | C7H5NO4
reactant | nitric acid | 125 ml | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 125 ml | [N+](=O)(O)[O-] | HNO3
product | 4,5-methylenedioxy-1,2-dinitrobenzene | C1OC2=CC(=C(C=C2O1)[N+](=O)[O-])[N+](=O)[O-] | C7H4N2O6
